US07449475B2
N-{5-chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}urea
A solution of N-(5-chloro-2-hydroxyphenyl)urea (0.9 g, 4.9 mmol) and (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (1.0 g, 3.8 mmol) in dimethylformamide were stirred under nitrogen. Cesium carbonate (1.9 g, 5.7 mmol) was added to the mixture and the reaction was stirred under nitrogen at room temperature over night. The mixture was partitioned between water and dichloromethane, and the organic phase was washed with water. After drying, filtration and evaporation of the solvent 0.48 g, (52%) of subtitle compound was obtained.

reactant | N-(5-chloro-2-hydroxyphenyl)urea | 4.9 mmol, 0.9 g | ClC=1C=CC(=C(C1)NC(=O)N)O | C7H7ClN2O2
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 3.8 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | Cesium carbonate | 5.7 mmol, 1.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-{5-chloro-2-[(2S)-oxiran-2-ylmethoxy]phenyl}urea | ClC=1C=CC(=C(C1)NC(=O)N)OC[C@H]1OC1 | C10H11ClN2O3
